US03948928
3-Amidino-6-nitro-1,2-benzisoxazole
In ethanol (100 ml) was dissolved ethyl 6-nitro- 1,2-benzisoxazole-3-formimidate hydrochloride (2.0 g) and the mixture was saturated with ammonia by passing through thereto ammonia gas under stirring at room temperature. The mixture was allowed to stand at room temperature overnight and then ethanol was distilled off under a reduced pressure. The crystalline residue was washed with ether and dissolved in water. The solution was neutralized with sodium bicarbonate and extracted with ether. The extract was distilled to remove ether to give the desired compound (1.2 g), which was recrystallized from chloroform. m.p. 182° to 185°C.

reactant | ethyl 6-nitro- 1,2-benzisoxazole-3-formimidate hydrochloride | 2.0 g | Cl.[N+](=O)([O-])C1=CC2=C(C(=NO2)C(OCC)=N)C=C1
reactant | ammonia | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Amidino-6-nitro-1,2-benzisoxazole | 1.2 g | C(N)(=N)C1=NOC2=C1C=CC(=C2)[N+](=O)[O-] | C8H6N4O3
